US06288221B1
4′-Methyl-2,2′-bipyridine-4-carbonyl propargyl amine
4′-Methyl-2,2′-bipyridine-4-carboxylic acid (0.22 g, 1 mmol), propargylamine hydrochloride (0.092 g, 1 mmol), HOBt (0.15 g, 1 mmol) and DIPEA (0.21 ml) were dissolved in dry DMF (15 ml) and cooled to 0° C. DCC (0.25 g, 1.2 mmol) was dissolved in DMF (3 ml) and added dropwise to the reaction mixture. The mixture was stirred at room temperature overnight. DCU was filtered off and solvent was removed by vacuum distillation. The remaining solid compound was dissolved in ethyl acetate and washed with NaHCO3(5%), 0.5 N HCl, brine and dried over sodium sulfate. Solvent was removed by rotary evaporator and the compound was purified by column chromatography using 2% methanol in chloroform as eluent afforded 0. 19 g (76%). FAB-MS: M.W. 251 [M+]; NMR assigned.

reactant | 4′-Methyl-2,2′-bipyridine-4-carboxylic acid | 1 mmol, 0.22 g | CC1=CC(=NC=C1)C1=NC=CC(=C1)C(=O)O | C12H10N2O2
reactant | propargylamine hydrochloride | 1 mmol, 0.092 g | Cl.C(C#C)N
reactant | HOBt | 1 mmol, 0.15 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.21 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | DCC | 1.2 mmol, 0.25 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4′-Methyl-2,2′-bipyridine-4-carbonyl propargyl amine | CC1=CC(=NC=C1)C1=NC=CC(=C1)C(=O)NCC#C | C15H13N3O
